data/rdb19/train.csv
rxn,smiles,ea
3688,[C:17]([C:18]([C:19]([C:20]([H:33])([H:34])[H:35])([c:21]1[c:22]([H:36])[c:23]([H:37])[c:24]([H:38])[c:25]([H:39])[c:26]1[H:40])[H:32])([H:30])[H:31])([H:27])([H:28])[H:29].[C:1]([C:2]([C:3]([H:4])[C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:1]([C:2]([C:3]([H:4])([C:5]([C:6]([H:14])([H:15])[H:16])([H:12])[H:13])[C:21]1([C:19]([C:18]([C:17]([H:27])([H:28])[H:29])([H:30])[H:31])([C:20]([H:33])([H:34])[H:35])[H:32])[C:22]([H:36])[C:23]([H:37])=[C:24]([H:38])[C:25]([H:39])=[C:26]1[H:40])([H:10])[H:11])([H:7])([H:8])[H:9],28.313682164705824
707,[C:19]([C:20]([C:21]([H:22])[C:23](=[O:24])[N:25]([H:31])[H:32])([H:29])[H:30])([H:26])([H:27])[H:28].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5](=[O:6])[N:7]([H:17])[H:18])[H:13])[H:11])([H:8])([H:9])[H:10].[H:12][C:21]([C:20]([C:19]([H:26])([H:27])[H:28])([H:29])[H:30])([H:22])[C:23](=[O:24])[N:25]([H:31])[H:32],23.432008970121387
2541,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([O:21][C:22](=[O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])([H:27])([H:28])[H:29]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:22]([O:21][C:20]([H:27])([H:28])[H:29])([O:23])[C:24](=[C:25]([H:30])[H:31])[C:26]([H:32])([H:33])[H:34])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13],25.02194776950637
3434,[C:17]([O:18][C:19](=[O:20])[C:21](=[C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])[C:5]([H:14])([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[H:13])=[C:5]([H:15])[H:16])([H:9])[H:10])([H:6])([H:7])[H:8].[H:14][C:21]([C:19]([O:18][C:17]([H:24])([H:25])[H:26])=[O:20])([C:22]([H:27])[H:28])[C:23]([H:29])([H:30])[H:31],34.43031426426023
2107,[C:11]([C:12]([C:13]([H:14])[O:15][C:16]([H:22])([H:23])[H:24])([H:20])[H:21])([H:17])([H:18])[H:19].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[C:13]([C:12]([C:11]([H:17])([H:18])[H:19])([H:20])[H:21])([H:14])[O:15][C:16]([H:22])([H:23])[H:24])[H:8])([H:6])[H:7],9.949020179337822
3399,[C:17]([O:18][C:19](=[C:20]([H:25])[H:26])[H:24])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])[H:7])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:17]([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([C:4]([H:14])([H:15])[H:16])([C:5]([H:6])([H:7])[O:18][C:19](=[C:20]([H:25])[H:26])[H:24])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10],59.66837672810652
1205,[C:1]([C:2]([C:3]([H:4])([C:5](=[O:6])[O:7][H:13])[C:17]([C:15]([C:14]([H:20])([H:21])[H:22])=[C:16]([H:23])[H:24])([O:18])[O:19][H:25])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3]1([H:4])[C:17]([C:15]([C:14]([H:20])([H:21])[H:22])=[C:16]([H:23])[H:24])([O:19][H:25])[O:18]1)([H:11])[H:12])([H:8])([H:9])[H:10].[C:5](=[O:6])[O:7][H:13],40.34267542831367
2440,[C:1]([C:2]([H:3])[H:4])([H:5])([H:6])[H:7].[C:8]([C:9](=[O:10])[O:11][C:12](=[C:13]([H:18])[H:19])[H:17])([H:14])([H:15])[H:16]>>[C:1]([C:2]([H:3])([H:4])[O:10][C:9]([C:8]([H:14])([H:15])[H:16])[O:11][C:12](=[C:13]([H:18])[H:19])[H:17])([H:5])([H:6])[H:7],32.92976580079994
3892,[C:13]([C:14]([C:15]([H:16])[H:17])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:24])([H:25])[H:26].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([C:4]([H:11])([H:12])[C:15]([C:14]([C:13]([H:24])([H:25])[H:26])([c:18]1[c:19]([H:28])[c:20]([H:29])[c:21]([H:30])[c:22]([H:31])[c:23]1[H:32])[H:27])([H:16])[H:17])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7],15.934847189870196
284,[C:4]([C:5]([C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10].[O:1]([O:2])[H:3]>>[H:3][C:5]([C:4]([H:8])([H:9])[H:10])([C:6](=[C:7]([H:14])[H:15])[H:13])[H:11].[O:1][O:2][H:12],48.14436277237837
2945,[C:16]([C:17]([C:18]([H:19])[C:20]([C:21]([H:29])([H:30])[H:31])([H:27])[H:28])([H:25])[H:26])([H:22])([H:23])[H:24].[C:1]([C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:16]([C:17](=[C:18]([H:19])[C:20]([C:21]([H:29])([H:30])[H:31])([H:27])[H:28])[H:25])([H:22])([H:23])[H:24].[C:1]([H:8])([H:9])([H:10])[H:26].[C:2]([O:3][C:4](=[O:5])[C:6](=[C:7]([H:14])[H:15])[H:13])([H:11])[H:12],81.77543153328588
4392,[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9].[O:13][H:14]>>[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]([O:5])([O:6][H:12])[O:13][H:14])([H:7])([H:8])[H:9],18.48635252949316
